US07317015B2
Synthesis of (S)-4-chloro-6-(2,2,2-trifluoro-1-methylethylamino)-5-(2,4,6-trifluorophenyl)pyrimidine-2-thiocarbamide
At room temperature, hydrogen sulfide was introduced for 5 minutes into a solution of 0.5 g (1.35 mmol) of (S)-4-chloro-6-(2,2,2-trifluoro-1-methylethylamino)-5-(2,4,6-trifluorophenyl)pyrimidine-2-carbonitrile, prepared according to WO 03/043993, in 0.16 g of triethylamine and 6 ml of N-methylpyrrolidone. After the reaction had ended, 20 ml of water were added, the mixture was neutralized with acetic acid and extracted with methyl tert-butyl ether and the organic phase was washed with water, dried over magnesium sulfate and concentrated.

reactant | hydrogen sulfide | S | H2S
reactant | (S)-4-chloro-6-(2,2,2-trifluoro-1-methylethylamino)-5-(2,4,6-trifluorophenyl)pyrimidine-2-carbonitrile | 1.35 mmol, 0.5 g | ClC1=NC(=NC(=C1C1=C(C=C(C=C1F)F)F)N[C@H](C(F)(F)F)C)C#N | C14H7ClF6N4
reactant | water | 20 ml | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | triethylamine | 0.16 g | C(C)N(CC)CC | C6H15N
solvent | N-methylpyrrolidone | 6 ml | CN1C(CCC1)=O | C5H9NO
product | (S)-4-chloro-6-(2,2,2-trifluoro-1-methylethylamino)-5-(2,4,6-trifluorophenyl)pyrimidine-2-thiocarbamide | ClC1=NC(=NC(=C1C1=C(C=C(C=C1F)F)F)N[C@H](C(F)(F)F)C)C(N)=S | C14H9ClF6N4S
